US06437147B1
4,5,6,7-Tetrahydro-1H-benzimidazole-5-carboxylic acid [3-(4-chlorophenyl)propyl]methylamide, hydrochloride
By a similar procedure as described in Example 65, the title compound was prepared from 4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid and 3-(4-chlorophenyl)propylmethylamine.

reactant | 4,5,6,7-tetrahydrobenzimidazole-5-carboxylic acid | N1=CNC2=C1CCC(C2)C(=O)O | C8H10N2O2
reactant | 3-(4-chlorophenyl)propylmethylamine | ClC1=CC=C(C=C1)CCCNC | C10H14ClN
product | 4,5,6,7-Tetrahydro-1H-benzimidazole-5-carboxylic acid [3-(4-chlorophenyl)propyl]methylamide, hydrochloride | Cl.ClC1=CC=C(C=C1)CCCN(C(=O)C1CC2=C(NC=N2)CC1)C | InChI=1S/C18H22ClN3O.ClH/c1-22(10-2-3-13-4-7-15(19)8-5-13)18(23)14-6-9-16-17(11-14)21-12-20-16;/h4-5,7-8,12,14H,2-3,6,9-11H2,1H3,(H,20,21);1H
